US06696473B2
Added 3′-fluoroacetanilide (3.06 g, 20 mmol) cautiously to conc sulfuric acid (6 mL) at 5° C. To the resulting solution, added fuming nitric acid (1.05 mL, 25 mmol) dropwise while maintaining temperature at 5-10° C. After 30 min, added ice (50 g), later diluted with water (100 mL) and extracted with EtOAc (2×100 mL). The combined organic layers were washed with saturated NaHCO3 and brine, dried (Na2SO4) and concentrated to give the crude product (4.0 g) as a mixture of isomers (1:1.4 ratio of 4′-nitro/2′-nitro). The desired isomer, 3′-flouro-4′-nitroacetanilide, was isolated by flash chromatography (DCM-5% MeOH/DCM) in low yield (1.2 g, 30%) as a yellow solid. 1H-NMR (CDCl3): δ 8.08 (1H, app t), 7.82 (1H, dd), 7.41 (1H, br s), 7.21 (1H, m), 2.25 (3H, s).

reactant | 3′-fluoroacetanilide | 20 mmol, 3.06 g | FC=1C=C(NC(C)=O)C=CC1 | C8H8FNO
reactant | sulfuric acid | 6 mL | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 25 mmol, 1.05 mL | [N+](=O)(O)[O-] | HNO3
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | 3′-flouro-4′-nitroacetanilide | FC=1C=C(NC(C)=O)C=CC1[N+](=O)[O-] | C8H7FN2O3
